US07317033B2
3N-(5,6-Dichloro-2-benzimidazolyl)-4-methyl-3-thienylamine hydrochloride
is obtained analogously to the procedure described in example 1 c) from N-(2-amino-4,5-dichlorophenyl)-N′-(4-methyl-3-thienyl)thiourea and methyl iodide. Crystalline solid, m.p. 290-294° C.

reactant | N-(2-amino-4,5-dichlorophenyl)-N′-(4-methyl-3-thienyl)thiourea | NC1=C(C=C(C(=C1)Cl)Cl)NC(=S)NC1=CSC=C1C | C12H11Cl2N3S2
reactant | methyl iodide | CI | CH3I
product | (5,6-Dichloro-2-benzimidazolyl)-4-methyl-3-thienylamine hydrochloride | Cl.ClC1=CC2=C(N=C(N2)NC2=CSC=C2C)C=C1Cl | InChI=1S/C12H9Cl2N3S.ClH/c1-6-4-18-5-11(6)17-12-15-9-2-7(13)8(14)3-10(9)16-12;/h2-5H,1H3,(H2,15,16,17);1H
